US03979390
To a suspension of γ-[4-(p-chlorophenyl)-4-hydroxypiperidin-1-yl]-2,4-difluorobutyrophenone hydrochloride (2.0 g) in benzene (160 ml) were added 80 g of 40 % aqueous solution of dimethylamine, and the resulting mixture was stirred at room temperature for 27 hours. The benzene layer was separated, washed with water, dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue was sufficiently triturated and washed with n-hexane to afford γ-[4-(p-chlorophenyl)-4-hydroxypiperidin-1-yl]-2-dimethylamino-4-fluorobutyrophenone. M.P. 83° - 85°C.

reactant | γ-[4-(p-chlorophenyl)-4-hydroxypiperidin-1-yl]-2,4-difluorobutyrophenone hydrochloride | 2.0 g | Cl.ClC1=CC=C(C=C1)C1(CCN(CC1)C(CC(C(=O)C1=CC=CC=C1)F)F)O
reactant | dimethylamine | CNC | C2H7N
solvent | benzene | 160 ml | C1=CC=CC=C1 | C6H6
product | γ-[4-(p-chlorophenyl)-4-hydroxypiperidin-1-yl]-2-dimethylamino-4-fluorobutyrophenone | ClC1=CC=C(C=C1)C1(CCN(CC1)C(CC(C(=O)C1=CC=CC=C1)N(C)C)F)O | C23H28ClFN2O2
